US07317125B2
Preparation of benzoic acid N′-[2-(2′-ethyl-3,5-difluoro-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide
A solution of benzoic acid N′-[2-(2-bromo-4,6-difluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide (100 mg, 0.234 mmol) in DME (3 ml)/2M Na2CO3 (0.410 ml, 0.819 mmol) was treated with 2-ethylphenylboronic acid (71 mg, 0.468 mmol), and Pd[PPh3]4 (27 mg, 0.0234 mmol) in a microwave oven at 150° C. for 10 min. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 20-40% ethyl acetate/hexanes gradient to afford the product as a white solid (70 mg, 66%). MS m/e 453.30 (M+H+)

reactant | benzoic acid N′-[2-(2-bromo-4,6-difluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 0.234 mmol, 100 mg | BrC1=C(OCC(=O)N(NC(C2=CC=CC=C2)=O)C(C)C)C(=CC(=C1)F)F | C18H17BrF2N2O3
reactant | Na2CO3 | 0.819 mmol, 2M, 0.410 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-ethylphenylboronic acid | 0.468 mmol, 71 mg | C(C)C1=C(C=CC=C1)B(O)O | C8H11BO2
solvent | DME | 3 ml | COCCOC | C4H10O2
product | benzoic acid N′-[2-(2′-ethyl-3,5-difluoro-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide | 70 mg, 66% | C(C)C1=C(C=CC=C1)C1=C(C(=CC(=C1)F)F)OCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C26H26F2N2O3
